US08304446B2
3-{[3-Amino-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile
To a fine suspension of ground potassium hydroxide (566 mg, 10.09 mmol) in dimethyl sulfoxide (5 mL) at room temperature under nitrogen was added a solution of 7-fluoro-4-(methyloxy)-1H-indazol-3-amine (for a preparation see Intermediate 43) (727 mg, 4.01 mmol) in dimethyl sulfoxide (2 mL). After 5 min the resulting dark brown solution was treated with 3-(chloromethyl)benzonitrile (730 mg, 4.82 mmol). The reaction mixture was stirred for 30 min and then the mixture was poured into water, forming an emulsion. This was extracted with DCM and the combined extracts were washed with water and passed through a hydrophobic frit. The aqueous was extracted with ethyl acetate and the combined organic solutions were washed with water and brine, dried (Na2SO4) and then combined with the initial DCM extracts and concentrated in vacuo to leave a brown oil. The residue was loaded in dichloromethane to a silica 100 g cartridge and purified by chromatography on Flashmaster eluting with 0-100% ethyl acetate-cyclohexane over 40 min. The appropriate fractions were combined and evaporated in vacuo to give the required product (665 mg, 56%) as a yellow powder. LCMS (System A) RT=1.02 min, ES+ve m/z 297 (M+H)+.

reactant | potassium hydroxide | 10.09 mmol, 566 mg | [OH-].[K+]
reactant | 7-fluoro-4-(methyloxy)-1H-indazol-3-amine | FC=1C=CC(=C2C(=NNC12)N)OC | C8H8FN3O
reactant | 3-(chloromethyl)benzonitrile | 4.82 mmol, 730 mg | ClCC=1C=C(C#N)C=CC1 | C8H6ClN
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | DCM | ClCCl | CH2Cl2
product | 3-{[3-Amino-7-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}benzonitrile | 665 mg, 56% | NC1=NN(C2=C(C=CC(=C12)OC)F)CC=1C=C(C#N)C=CC1 | C16H13FN4O
